Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
Anemia
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ yo F with no significant PMH presenting from referral
for PCP for fatigue and anemia to 4.2. She notes decreased 
energy
and poor po intake over the last few months, though denies any
hematochezia, hematemesis, or vaginal bleeding. She takes a 
daily
multivitamin but otherwise does not take any medications. She
denies fevers, chills, chest pain, SOB, n/v, change in bowel
habits, bruising, adenopathy, new rashes or lesions.
  
 In the ED:  
 Initial vital signs were notable for:  
 T99.1, HR 81, BP 117/74, RR 18, 100% RA  
 Exam notable for:  
 -Pale conjunctive  
 -Guaiac negative  
 -No petechiae, no ecchymosis  
 Labs were notable for:  
 -Hgb 4.2, Hct 17.1, MCV 63  
 -WBC 6.3  
 -UA moderate leukocyte esterase, 11 WBC, few bacteria  
 Studies performed include:  
 EKG: R84, NSR, normal axis, normal intervals. No ST
abnormalities or acute ischemic changes  
 Patient was given:  
 -Typed and screened to receive 2U PRBC  
 Consults: 
 None  
 Vitals on transfer:  
 T99.1, HR 81, BP 117/74, RR 18, Pox 100% RA  

 Upon arrival to the floor, the patient endorses the above 
except
she says she hasn't had any symptoms: ___
Family History:
Two cousins died of thalassemia. Others required blood 
transfusions.
Half-brother has diabetes.

 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
 VITALS:  98.6 PO 110/68 76 20 99% Ra 
 GENERAL: Alert and interactive. In no acute distress.  
 HEENT: NCAT. PERRL, EOMI. Sclera anicteric and without
injection. MMM.  
 NECK: No JVD. No JVP elevation.  
 CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.  
 LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi 
or
rales. No increased work of breathing.   
 ABDOMEN: Normal bowels sounds, non distended, non-tender to 
deep
palpation in all four quadrants. No organomegaly.  
 EXTREMITIES: No clubbing, cyanosis, or edema. Pulses DP/Radial
2+ bilaterally.  
 SKIN: Warm. Cap refill <2s. No rash.  
 NEUROLOGIC: CN2-12 intact. ___ strength throughout. Normal
sensation. AOx3
 
PHYSICAL EXAM:  
24 HR Data (last updated ___ @ 735)
    Temp: 98.3 (Tm 99.0), BP: 111/69 (107-118/63-69), HR: 65
(65-74), RR: 18 (___), O2 sat: 97% (96-98), O2 delivery: RA  

 GENERAL: Alert and interactive. In no acute distress.  
 HEENT: NCAT. PERRL, EOMI. Sclera anicteric and without
injection. MMM.  
 NECK: No JVD. No JVP elevation.  
 CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.  
BREAST: R breast 1cmx2cm elliptoid mobile rubbery firm mass at 8
o clock, 0.5x0.5cm mass at 12 o clock 
 LUNGS: Clear to auscultation bilaterally.   
 ABDOMEN: Normal bowels sounds, non distended, non-tender to 
deep
palpation in all four quadrants. No organomegaly.  
 EXTREMITIES: No clubbing, cyanosis, or edema. Pulses DP/Radial
2+ bilaterally.   
 NEUROLOGIC: CN2-12 intact. ___ strength throughout. Normal
sensation. AOx3

 
Pertinent Results:
ADMISSION LABS
==============
___ 05:12PM BLOOD WBC-6.3 RBC-2.58* Hgb-4.2* Hct-17.1* 
MCV-66* MCH-16.3* MCHC-24.6* RDW-20.3* RDWSD-48.0* Plt ___
___ 05:12PM BLOOD Neuts-53.3 ___ Monos-8.5 Eos-4.0 
Baso-0.5 Im ___ AbsNeut-3.33 AbsLymp-2.09 AbsMono-0.53 
AbsEos-0.25 AbsBaso-0.03
___ 05:12PM BLOOD ___ PTT-26.2 ___
___ 05:12PM BLOOD Glucose-96 UreaN-12 Creat-0.7 Na-141 
K-4.1 Cl-104 HCO3-24 AnGap-13

PERTINENT LABS
==============
___ 07:05AM BLOOD WBC-4.8 RBC-3.41* Hgb-6.7* Hct-24.3* 
MCV-71* MCH-19.6* MCHC-27.6* RDW-23.4* RDWSD-59.1* Plt ___
___ 04:55PM BLOOD WBC-6.8 RBC-3.80* Hgb-8.0* Hct-28.2* 
MCV-74* MCH-21.1* MCHC-28.4* RDW-24.2* RDWSD-63.6* Plt ___
___ 07:20AM BLOOD WBC-6.6 RBC-3.99 Hgb-8.4* Hct-29.4* 
MCV-74* MCH-21.1* MCHC-28.6* RDW-23.4* RDWSD-61.1* Plt ___
___ 05:12PM BLOOD Neuts-53.3 ___ Monos-8.5 Eos-4.0 
Baso-0.5 Im ___ AbsNeut-3.33 AbsLymp-2.09 AbsMono-0.53 
AbsEos-0.25 AbsBaso-0.03
___ 07:05AM BLOOD Hypochr-3+* Anisocy-3+* Poiklo-3+* 
Microcy-3+* Spheroc-2+* Schisto-1+* RBC Mor-SLIDE REVI
___ 05:12PM BLOOD Hb A-PND Hb S-PND Hb C-PND Hb A2-PND Hb 
F-PND
___ 07:05AM BLOOD Ret Man-0.8 Abs Ret-0.03
___ 07:05AM BLOOD Ret Man-0.8 Abs Ret-0.03
___ 07:05AM BLOOD ALT-10 AST-20 LD(LDH)-168 AlkPhos-74 
TotBili-0.4
___ 07:05AM BLOOD TotProt-6.7 Albumin-3.6 Globuln-3.1 
Calcium-9.1 Phos-4.8* Mg-1.8 Iron-20*
___ 07:05AM BLOOD calTIBC-432 VitB12-602 Folate-19 
Ferritn-3.9* TRF-332
___ 07:50AM BLOOD TSH-4.5*
___ 07:05AM BLOOD PEP-NO SPECIFIC ABNORMALITIES SEEN   
b2micro-2.3*

DISCHARGE LABS
==============
___ 07:50AM BLOOD WBC-6.7 RBC-4.29 Hgb-9.0* Hct-31.9* 
MCV-74* MCH-21.0* MCHC-28.2* RDW-25.1* RDWSD-64.1* Plt ___
___ 07:50AM BLOOD Glucose-84 UreaN-9 Creat-0.6 Na-141 K-4.1 
Cl-102 HCO3-26 AnGap-13

IMAGING
=======
CXR - No prior chest radiographs available. 
Cardiomegaly is mild, with a configuration suggesting left 
ventricular 
enlargement.  Pulmonary mediastinal vasculature however are 
normal and there is no edema or pleural effusion.  Lungs are 
clear. 

MICRO
=====
___ 6:30 pm URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      ESCHERICHIA COLI.    >100,000 CFU/mL. 
         Cefazolin interpretative criteria are based on a dosage 
regimen of
         2g every 8h. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             ESCHERICHIA COLI
                             |   
AMPICILLIN------------   <=2 S
AMPICILLIN/SULBACTAM--   <=2 S
CEFAZOLIN-------------   <=4 S
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------   =>4 R
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
NITROFURANTOIN--------  <=16 S
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----  =>16 R

 
Brief Hospital Course:
SUMMARY OF HOSPITALIZATION
============================
___ y.o. woman with history of thalassemia (type unknown, no 
prior transfusions), reported L nephrectomy, cesarean section, R 
lumpectomy, hysterectomy, who presented as referral from her 
primary care provider for fatigue and anemia with hemoglobin 
4.2. On arrival she also described a right breast mass, 4kg 
weight loss with suppressed appetite and night sweats in the 
past 6 months. The hospitalization focused on treatment and 
diagnosis of anemia and initial workup for possible malignancy. 

She was given three transfusions, with sustained response, and 
hemoglobin 9.0 on discharge. Her profound microcytic anemia, 
reported personal and family history all suggestive of a 
thalassemia; she was also found to have concomitant iron 
deficiency anemia. Hemoglobin electrophoresis was pending at 
time of discharge. Cause of her iron deficiency anemia was 
unclear, with no evidence of gastrointestinal bleeding, no 
menses for over one year. She was given IV iron for this. 

Regarding her history concerning for malignancy, suspicion is 
high for breast cancer, with concern for colorectal malignancy. 
Differential unconcerning for hematologic malignancy. Unclear 
history of nephrectomy also raised concern. She was scheduled 
for mammography and ultrasound same day as discharge for 
expedited workup. Suspect that inflammation from malignancy may 
have caused acute flare of thalassemia, or the acute on chronic 
decline could have been related more to the iron deficiency 
anemia. Outpatient colonoscopy will further investigate this.

She was also found to have an uncomplicated UTI for which she 
was given nitrofurantoin for 5 days, to be completed at home.

ACUTE ISSUES ADDRESSED
========================
#Microcytic Anemia 
#Thalassemia
Patient presented for initial visit with PCP with symptoms of
fatigue found to have anemia of 4.3. In hospital she reported a 
history of thalassemia, unknown type. She had had no melena, 
hematemesis, hematuria, or vaginal bleeding (in over ___ year). 
She had become more ill and pale over last 6 months per friends, 
with dyspnea on exertion, night sweats, 4kg weight loss. Family 
history of thalassemia including blood
transfusions and death of cousins in ___. ___ was negative. 
Iron studies included ferritin of 3.9 and TSAT of 6%, and 
elevated red cell distribution width consistent with iron 
deficiency anemia. Her LFTs, albumen, total protein were all 
within normal limits. Hemoglobin electrophoresis was pending at 
time of discharge.

# Right Breast masses (2)
Patient describes mass increasing in size over last few months. 
On exam, 2 masses in right breast. History of either excisional 
biopsy or lumpectomy same breast, and sister with breast cancer 
age ___. ___ be benign growths, though concern for malignancy is 
high. Scheduled patient for same day mammogram and ultrasound 
upon discharge, to be followed up by ___ PCP.

# Weight loss, night sweats
Constitutional symptoms for 6 months, no fevers, with worsening 
anemia concerning for malignancy, tuberculosis, thyroid 
dysfunction, rheumatologic condition. Quant gold drawn at PCP's 
office day prior to presentation. TSH returned 4.5, which could 
be elevated in setting of acute illness, or could represent new 
hypothyroidism. Chest xray this admission without evidence of 
tb. Malignancy of breast, colon seem most likely. No evidence of 
leukemia on CBC differential. SPEP, UPEP pending on discharge. 
No rashes, joint pains to suggest rheumatologic condition.

# Uncomplicated UTI
Patient found to have asymptomatic bactiuria with >100k e coli, 
resistant to cipro, TMP-SMX, sensitive to nitrofurantoin. She 
was treated given acute illness may possibly flare her 
thalassemia, and unclear history of nephrectomy and thus 
genitourinary anatomy. She was given nitrofurantoin q12hr x5d, 
to be completed outpatient.

# Cardiomegaly on chest xray
Patient incidentally found to have some degree of cardiomegaly 
on chest xray. Suspect due to chronic anemia. She is 
normotensive with no risk factors for a dilated cardiomyopathy.

CHRONIC ISSUES ADDRESSED
==========================
none

TRANSITIONAL ISSUES
===================
[] Will need repeat CBC at outpatient ___ visit on 
___.
[] Hematology appointment at ___ scheduled for ___ at 
8am.Would likely benefit from complete thalassemia workup 
including baseline liver ultrasound, possibly cardiac MRI. Will 
defer on further work up to Hematology visit on ___.  
[] Would advise outpatient colonoscopy for cancer screening and 
further investigation of iron deficiency anemia
[] CXR showed cardiomegaly. She's normotensive, may have 
cardiomyopathy from chronic anemia. Would consider TTE 
outpatient
[] Once ferritin normalizes, would stop iron supplementation due 
to concern for iron overload in thalassemia
[] TSH returned 4.5, which could be elevated in setting of acute 
illness, or could represent new hypothyroidism or subclinical 
hypothyroidism.
[] HIV test not yet performed

 #CODE: full (presumed)
 #CONTACT: ___ (friend) ___.
 
Medications on Admission:
Multivitamin
 
Discharge Medications:
1.  Ferrous Sulfate 325 mg PO DAILY 
RX *ferrous sulfate [Iron (ferrous sulfate)] 325 mg (65 mg iron) 
1 tablet(s) by mouth once daily Disp #*30 Tablet Refills:*0 
2.  FoLIC Acid 1 mg PO DAILY 
RX *folic acid 1 mg 1 tablet(s) by mouth once daily Disp #*30 
Tablet Refills:*0 
3.  Nitrofurantoin Monohyd (MacroBID) 100 mg PO Q12H 
RX *nitrofurantoin monohyd/m-cryst 100 mg 1 capsule(s) by mouth 
twice a day Disp #*7 Capsule Refills:*0 
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis: anemia (suspected beta thalassemia), iron 
deficiency anemia
Secondary diagnosis: R breast mass, urinary tract infection, 
unintentional weight loss

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,  

It was a privilege caring of you at ___.  

WHY WAS I IN THE HOSPITAL?  
- You came to the hospital because you had severe anemia and 
fatigue

WHAT HAPPENED TO ME IN THE HOSPITAL?  
- Three blood transfusions were given
- Lab studies were performed 
- You were found to have low iron 
- We suspect you have thalassemia, but the lab tests were still 
pending. Your primary care provider ___ follow up these tests.
- You were given IV iron
- A mammogram was scheduled to better assess the lumps in your 
right breast

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?  
- Continue to take all your medicines and keep your appointments 
with your primary care provider and the hematologist.
- Discuss possibly getting a colonoscopy with your primary care 
provider.

We wish you the best.

Sincerely,  
Your ___ Team  

 
Followup Instructions:
___